* gnetlist -L ../.. -g spice-noqsi -o AND.net AND.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
M2 Vout 1 Vss Vss nch  l=0.25 w=0.5         
X1 Vdd 1 INV1
.INCLUDE CMOS_Inverter.net
.GLOBAL Vdd Vss
.PARAM SUPPLY=3v
.options TEMP=25
.options SCALE=1u
.MODEL nch NMOS
.MODEL pch PMOS
M1 Vout Vdd A Vout nch  l=0.25 w=0.5         
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
VA A GND 'SUPPLY'
.dc VA 0 'SUPPLY' 0.25
